US04307230
4-(Hydroxyethyl)-thiosemicarbazide (5 g) and ethyl oxalate (5.5 cc) are added to solution of sodium methylate (prepared from sodium (0.85 g)) in methanol (37 cc), and the mixture is heated under reflux for 3 hours. After it has cooled, the precipitate is filtered off and washed with methanol (2×5 cc). The crude sodium salt is obtained, and is then taken up in distilled water (25 cc); the solution is filtered, and acidified to pH 2 with 1 N hydrochloric acid. The precipitate is filtered off, washed with water and dried in air. 5,6-Dioxo-4-(2-hydroxyethyl)-3-thioxo-perhydro-1,2,4-triazine (2.4 g) (m.p.=230° C.) is obtained.

reactant | 4-(Hydroxyethyl)-thiosemicarbazide | 5 g | OCCNC(NN)=S | C3H9N3OS
reactant | ethyl oxalate | 5.5 cc | C(C(=O)[O-])(=O)OCC
reactant | sodium methylate | 0.85 g | C[O-].[Na+]
solvent | methanol | 37 cc | CO | CH4O
solvent | water | 25 cc | O | H2O
product | 5,6-Dioxo-4-(2-hydroxyethyl)-3-thioxo-perhydro-1,2,4-triazine | 2.4 g | O=C1N(C(NNC1=O)=S)CCO | C5H7N3O3S
